US06960594B2
Compound VI: 3-{[5-(3-tert-Butoxycarbonylamino-propylcarbamoyl)-thiophene-2-carbonyl]-amino}-3-phenyl-propionic acid tert-butyl ester.
With continued reference to Scheme G, 5-(3-tert-Butoxycarbonylamino-propylcarbamoyl)-thiophene-2-carboxylic acid (200 mg, 0.704 mmol) was reacted with 3-Amino-3-phenyl-propionic acid tert-butyl ester (187 mg, 0.845 mmol) in 4.0 ml of anhydrous DMF using HATU (321 mg, 0.845 mmol) with 2,4,6-collidine (0.25 ml, 2.112 mmol), chromatographied on silica gel using ethyl acetate: hexane (8:2) to give 200 mg (58% yield) of the desired product as a clear semi-solid oil. 1H NMR (400 Mhz, CDCl3) 1.3 (s, 9H), 1.45 (s, 9H), 1.7 (m, 2H), 2.9 (ddd, 2H), 3.25 (m, 2H), 3.5 (q, 2H), 4.85 (bs, 1H), 5.55 (m, 1H), 7.23 (m, 1H), 7.33 (m, 4H), 7.4-7.6 (m, 4H).

reactant | 5-(3-tert-Butoxycarbonylamino-propylcarbamoyl)-thiophene-2-carboxylic acid | 0.704 mmol, 200 mg | C(C)(C)(C)OC(=O)NCCCNC(=O)C1=CC=C(S1)C(=O)O | C14H20N2O5S
reactant | 3-Amino-3-phenyl-propionic acid tert-butyl ester | 0.845 mmol, 187 mg | C(C)(C)(C)OC(CC(C1=CC=CC=C1)N)=O | C13H19NO2
reactant | HATU | 0.845 mmol, 321 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,4,6-collidine | 2.112 mmol, 0.25 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-{[5-(3-tert-Butoxycarbonylamino-propylcarbamoyl)-thiophene-2-carbonyl]-amino}-3-phenyl-propionic acid tert-butyl ester | 200 mg, 58% yield | C(C)(C)(C)OC(CC(C1=CC=CC=C1)NC(=O)C=1SC(=CC1)C(NCCCNC(=O)OC(C)(C)C)=O)=O | C27H37N3O6S
